US04435406
40 g of 5-acetamino-6-nitro-1,3-benzodioxole were dissolved with heating in 4 l of methanol in a 10 round flask equipped with a reflux condenser. To this hot solution was added a boiling solution of 40 g of sodium methoxide in 4 l of methanol and the mixture was boiled under reflux for exactly 15 minutes. Then, the reaction was interrupted by adding 220 ml of glacial acetic acid. The methanol was removed by distillation and the last traces thereof, together with the glacial acetic acid, were removed by a two-fold evaporation with toluene. The product went into solution with 3 l of methylene chloride and could be freed from the organic residues by suction filtration. The methylene chloride solution was filtered through silicon dioxide and evaporated in vacuo. The residue, recrystallized from isopropanol, gave 30.9 g (95% of theory) of 5-amino-6-nitro-1,3-benzodioxole of melting point 203°-204° C.

reactant | 5-acetamino-6-nitro-1,3-benzodioxole | 40 g | N(C(=O)C)C1=CC2=C(OCO2)C=C1[N+](=O)[O-] | C9H8N2O5
reactant | sodium methoxide | 40 g | C[O-].[Na+]
reactant | acetic acid | 220 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 4 l | CO | CH4O
solvent | methanol | 4 l | CO | CH4O
product | 5-amino-6-nitro-1,3-benzodioxole | 30.9 g, 95% | NC1=CC2=C(OCO2)C=C1[N+](=O)[O-] | C7H6N2O4
